US04137273
To a solution of 1.7 g. of methyl 4,8-dimethylnona-3,7-dienoate in 20 ml. of ethanol, cooled to about 0°, is added a suspension of 2.3 g. of mercuric acetate in 50 ml. of ethanol, over about 15 minutes. The reaction mixture is stirred for two hours and then, with cooling, 1.2 g. of potassium hydroxide in 20 ml. of ethanol is added. Then 0.26 g. of sodium borohydride is added in small portions and stirring continued 30 minutes. The solution is decanted, concentrated to half volume, diluted with water and extracted with ether. The ethereal phase is washed with water, dried over magnesium sulfate and the product chromatographed to yield methyl 8-ethoxy-4,8-dimethylnon-3-enoate.

reactant | methyl 4,8-dimethylnona-3,7-dienoate | CC(=CCC(=O)OC)CCC=C(C)C | C12H20O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | methyl 8-ethoxy-4,8-dimethylnon-3-enoate | C(C)OC(CCCC(=CCC(=O)OC)C)(C)C | C14H26O3
